US08372867B2
N-chlorosuccinimide (0.06 g) was added to N-({4-[(hydroxyimino)methyl]naphthalen-1-yl}methyl)acetamide (0.1 g) in N,N-dimethylformamide (10 ml), and the reaction mixture was stirred at room temperature for 2 hours. 1,2-dichloro-3-(trifluoromethyl)-5-[1-(trifluoromethyl)ethenyl]benzene (0.75 g) and potassium bicarbonate (0.13 g) was added to the reaction mixture, and the mixture was stirred at room temperature for 8 hours. Water was poured into the reaction mixture, and it was extracted with ethyl acetate. The organic layer was washed with brine, and dried over Magnesium sulfate anhydrous. The solvent was evaporated under the reduced pressure, and the residue was purified with silicagel columnchromatography to get N-[(4-{5-[3,4-dichloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl}naphthalen-1-yl)methyl]acetamide (0.1 g).

reactant | N-chlorosuccinimide | 0.06 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | N-({4-[(hydroxyimino)methyl]naphthalen-1-yl}methyl)acetamide | 0.1 g | ON=CC1=CC=C(C2=CC=CC=C12)CNC(C)=O | C14H14N2O2
reactant | 1,2-dichloro-3-(trifluoromethyl)-5-[1-(trifluoromethyl)ethenyl]benzene | 0.75 g | ClC1=C(C(=CC(=C1)C(=C)C(F)(F)F)C(F)(F)F)Cl | C10H4Cl2F6
reactant | potassium bicarbonate | 0.13 g | C([O-])(O)=O.[K+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | N-[(4-{5-[3,4-dichloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl}naphthalen-1-yl)methyl]acetamide | 0.1 g | ClC=1C=C(C=C(C1Cl)C(F)(F)F)C1(CC(=NO1)C1=CC=C(C2=CC=CC=C12)CNC(C)=O)C(F)(F)F | C24H16Cl2F6N2O2
